US05608101
To a solution of (±) camphorquinone [(1,7,7)-trimethylbicyclo[3,2,1]-heptane-2,3-dione](15.0 g, 90.24 mmol) and ethyl diazoacetate (11.8 g, 103.7 mmol) in 120 ml of ether is added, at 0°, BF3.ether (4 ml). The mixture is stirred at RT for 24 hr. The reaction mixture is extracted with 5% K2CO3 /H2O until no polar ethyl carboxyl dione remains. The combined aqueous extracts are acidified with conc. HCl and extracted with ether. The combined organic extracts are dried and evaporated to dryness to give crystalline 3-carboethoxy-1,8,8-trimethylbicyclo[3,2,1]octane-2,4-dione.

reactant | (±) camphorquinone | 90.24 mmol, 15.0 g | C12(C(=O)C(=O)C(CC1)C2(C)C)C | C10H14O2
reactant | ethyl diazoacetate | 103.7 mmol, 11.8 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | BF3 | B(F)(F)F | BF3
solvent | ether | 120 ml | CCOCC | C4H10O
solvent | ether | 4 ml | CCOCC | C4H10O
product | 3-carboethoxy-1,8,8-trimethylbicyclo[3,2,1]octane-2,4-dione | C(=O)(OCC)C1C(C2(CCC(C1=O)C2(C)C)C)=O | C14H20O4
